US05840917
5-Methyl-2-thiophenecarboxylic acid (2.84 g) was dissolved in N,N-dimethylformamide (30 ml), and iodoethane (1.68 ml) and potassium carbonate (2.76 g) were added. The mixture was stirred at room temperature for 15 hours, poured into water and extracted with diethyl ether. The extract was washed with 5% aqueous potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2-methyl-3-thiophenecarboxylic acid ethyl ester (1.84 g). 5-Methyl-2-thiophenecarboxylic acid ethyl ester (1.84 g) was dissolved in acetonitrile (30 ml), and sulfuryl chloride (1.31 ml) in acetonitrile (20 ml) was added dropwise. The mixture was stirred for 1.5 hour over a water bath, and 10% aqueous sodium thiosulfate (100 ml) was added. The mixture was stirred at room temperature for 2 hours and extracted with diethyl ether. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 4-chloro-5-methyl-2-thiophenecarboxylic acid ethyl ester (1.67 g). 4-Chloro-5-methyl-2-thiophenecarboxylic acid ethyl ester (1.67 g) was dissolved in a mixture of ethanol (10 ml) and tetrahydrofuran (10 ml), and 1N aqueous sodium hydroxide (16 ml) was added. The mixture was stirred at 60° C. for 2 hours and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 4-chloro-5-methyl-2-thiophenecarboxylic acid (0.98 g) as crystals.

reactant | 5-Methyl-2-thiophenecarboxylic acid | 2.84 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | iodoethane | 1.68 ml | ICC | C2H5I
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-methyl-3-thiophenecarboxylic acid ethyl ester | 1.84 g | C(C)OC(=O)C1=C(SC=C1)C | C8H10O2S
